US09278944B2
To a solution of 3-methoxy-1-propanol (0.14 mL) in N,N-dimethylformamide (3.0 mL) was added 60% oil-based sodium hydride (97 mg), and the mixture was stirred at room temperature for 10 minutes. Then, thereto was added dropwise a solution of N-{1-[3-fluoro-5-(trifluoromethyl)phenyl]ethyl}cyclopropylamine (300 mg) in N,N-dimethylformamide (1.0 mL), and the mixture was heated to stir at 40° C. for 4 hours. After cooling to room temperature, thereto was added water, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1→2/3) to give N-{1-[3-(3-methoxypropyl)-5-(trifluoromethyl)phenyl]ethyl}cyclopropanamine [REx(31-1)] (227 mg) as a colorless oil.

reactant | 3-methoxy-1-propanol | 0.14 mL | COCCCO | C4H10O2
reactant | sodium hydride | 97 mg | [H-].[Na+]
reactant | N-{1-[3-fluoro-5-(trifluoromethyl)phenyl]ethyl}cyclopropylamine | 300 mg | FC=1C=C(C=C(C1)C(F)(F)F)C(C)NC1CC1 | C12H13F4N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N-{1-[3-(3-methoxypropyl)-5-(trifluoromethyl)phenyl]ethyl}cyclopropanamine | 227 mg | COCCCC=1C=C(C=C(C1)C(F)(F)F)C(C)NC1CC1 | C16H22F3NO
